US04065457
(b) 4-Hydroxy-1-methyl-3-nitro carbostyril
A suspension of 4-hydroxy-1-methyl carbostyril (1.63g; 0.009 mole) in glacial acetic acid (10 ml) was stirred during the addition of concentrated nitric acid (2.5 ml; d, 1.42) and the mixture heated for a few minutes on a steam bath. On cooling the clear red solution deposited yellow crystals of the title compound which were diluted with ethanol, filtered, and washed well with ethanol, m.p. 159°-161° C (Found: C, 54.20; H 3.71; N, 12.42; C10H8N2O4 requires; C, 54.55 H, 3.66; N, 12.72%).

reactant | 4-hydroxy-1-methyl carbostyril | 0.009 mole, 1.63g | OC1=CC(N(C2=CC=CC=C12)C)=O | C10H9NO2
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-1-methyl-3-nitro carbostyril | OC1=C(C(N(C2=CC=CC=C12)C)=O)[N+](=O)[O-] | C10H8N2O4
